US03947456
The free base prepared from 12.2 g. of rac.-4-(4-chlorophenyl)-1,2,3,4-tetrahydro-7-methoxy-2-methylisoquinoline hydrochloride is stirred at reflux with 150 ml. of 48% hydrobromic acid solution for 2 hours at a bath temperature of 160°. After evaporation and recrystallization from methanol-ether there is obtained rac.-4-(4-chlorophenyl)-1,2,3,4-tetrahydro-2-methyl-7-isoquinolinol hydrobromide of m.p. 292°-293°. The free base of this compound displays a m.p. of 189°-190° after recrystallization from ether, the hydrochloride after recrystallization from methanol-ether melts at 295°-297°.

reactant | rac.-4-(4-chlorophenyl)-1,2,3,4-tetrahydro-7-methoxy-2-methylisoquinoline hydrochloride | Cl.ClC1=CC=C(C=C1)C1CN(CC2=CC(=CC=C12)OC)C
reactant | hydrobromic acid | Br | BrH
product | rac.-4-(4-chlorophenyl)-1,2,3,4-tetrahydro-2-methyl-7-isoquinolinol hydrobromide | Br.ClC1=CC=C(C=C1)C1CN(CC2=CC(=CC=C12)O)C | InChI=1S/C16H16ClNO.BrH/c1-18-9-12-8-14(19)6-7-15(12)16(10-18)11-2-4-13(17)5-3-11;/h2-8,16,19H,9-10H2,1H3;1H
